US06469195B1
Preparation of Methyl [2-(3-Bromo-4-fluorophenoxy)phenyl]oxoacetate
A suspension of 3.75 g of 80% pure NaH in 50 ml of dimethyl sulfoxide (DMSO) was admixed with 21.7 g of 3-bromo-4-fluorophenol (cf. DE-A 192 80 27) and then stirred at 20-25° C. for 30 min, and a solution of 22.7 g of methyl 2-(2-fluorophenyl)oxoacetate in 100 ml of DMSO was added dropwise. The reaction mixture was stirred at 20-25° C. for approximately 12 hours, poured into ice-water and then extracted with ethyl acetate. The organic phases were washed with 1 N aqueous sodium hydroxide solution and water and dried, and the solvent was distilled off, giving 35 g of the title compound.

reactant | NaH | 3.75 g | [H-].[Na+]
reactant | 3-bromo-4-fluorophenol | 21.7 g | BrC=1C=C(C=CC1F)O | C6H4BrFO
reactant | methyl 2-(2-fluorophenyl)oxoacetate | 22.7 g | FC1=C(C=CC=C1)C(C(=O)OC)=O | C9H7FO3
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | Methyl [2-(3-Bromo-4-fluorophenoxy)phenyl]oxoacetate | 35 g | BrC=1C=C(OC2=C(C=CC=C2)C(C(=O)OC)=O)C=CC1F | C15H10BrFO4
